US07405219B2
Ethyl 5-amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylacetate (Example 14)
A solution of 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (101 mg, 0.5 mmol) in DMF (4 mL) was treated with 4-(N,N-dimethylamino)pyridine (5 mg, 0.04 mmol) and ethyl bromoacetate (55 mL, 0.5 mmol), stirred at room temperature for 16 h and purified directly by chromatography [SiO2; EtOAc:Heptane (1:2)] to give the title compound (50 mg, 35%) as a white solid.

reactant | 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.5 mmol, 101 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N=NN2 | C8H6N6O
reactant | ethyl bromoacetate | 0.5 mmol, 55 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | 4-(N,N-dimethylamino)pyridine | 0.04 mmol, 5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | Ethyl 5-amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylacetate | 50 mg, 35% | NC=1N=C(C2=C(N1)N(N=N2)CC(=O)OCC)C=2OC=CC2 | C12H12N6O3
